US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 3′-bromo-6,2′,6′-trifluorobiphenyl-2-carbonitrile as described in Example 6 to give 3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]-6,2′,6′-trifluorobiphenyl-2-carbonitrile as an off-white solid (17 mg, 10%): δH (400 MHz, d6-DMSO) 1.58 (6H, s), 5.56 (1H, s), 7.23 (1H, t, J 7), 7.61 (1H, t, J 8), 7.84-7.87 (3H, m), 7.95-8.01 (2H, m), 8.08 (1H, dd, J 7 and 3); m/z (ES+) 426 [MH+]

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 3′-bromo-6,2′,6′-trifluorobiphenyl-2-carbonitrile | BrC=1C(=C(C(=CC1)F)C=1C(=CC=CC1F)C#N)F | C13H5BrF3N
product | 3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]-6,2′,6′-trifluorobiphenyl-2-carbonitrile | 17 mg, 10% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C=2C(=C(C(=CC2)F)C=2C(=CC=CC2F)C#N)F | C23H15F4N3O
